US08026257B2
7-Bromo-5-chloro-1H-indazole.
2-Bromo-4-chloro-6-methylaniline (13.2 g, 59.90 mmol) was suspended in 24% hydrochloric acid (40 mL). The stirred mixture was cooled to 0° C. and treated with sodium nitrite (4.54 g, 65.90 mmol) in water (10 mL), dropwise over 30 min. The mixture was then buffered to ca. pH 5 with sodium acetate. This mixture was kept at 0° C. and added in portions to a stirred solution of 2-methyl-2-propanethiol (6.8 mL, 59.9 mmol) in ethanol (40 mL) at 0° C. over 30 min. After the addition, the mixture was stirred at 0° C. for 30 min then transferred to crushed ice, and extracted with ethyl acetate (2×). The organics were pooled together, washed with brine (2×), dried over sodium sulfate, filtered, and concentrated. The resulting residue was dissolved in dimethyl sulfoxide (50 mL) and transferred to a solution of potassium tert-butoxide (53.7 g, 479 mmol) in dimethyl sulfoxide (200 mL) at 0° C. via cannula. The ice-bath was removed and stirring continued for 30 min. The reaction was then poured into a mixture of crushed ice (400 mL) and 10% hydrochloric acid (200 mL) to give a precipitate which was collected by filtration. The resulting solid was triturated with hexanes to afford 7.5 g (54%) as a brown powder. 1H-NMR (CDCl3, 300 MHz) δ 7.97 (s, 1H), 7.60 (s, 1H), 7.44 (s, 1H). Mass spec.: 232.90 (MH)+.

reactant | 2-Bromo-4-chloro-6-methylaniline | 59.90 mmol, 13.2 g | BrC1=C(N)C(=CC(=C1)Cl)C | C7H7BrClN
reactant | sodium nitrite | 65.90 mmol, 4.54 g | N(=O)[O-].[Na+]
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | 2-methyl-2-propanethiol | 59.9 mmol, 6.8 mL | CC(C)(C)S | C4H10S
reactant | potassium tert-butoxide | 479 mmol, 53.7 g | CC(C)([O-])C.[K+]
solvent | hydrochloric acid | 40 mL | Cl | ClH
solvent | water | 10 mL | O | H2O
solvent | ethanol | 40 mL | C(C)O | C2H6O
solvent | dimethyl sulfoxide | 200 mL | CS(=O)C | C2H6OS
product | 7-Bromo-5-chloro-1H-indazole | BrC=1C=C(C=C2C=NNC12)Cl | C7H4BrClN2
